US07659267B2
N-[3-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]acetamide
A mixture of N-(3-cyanophenyl)acetamide (2.00 g, 13 mmol), methyl thiosalicylate (3.20 g, 19 mmol), triethylamine (2.30 g, 23 mmol) and toluene (15 ml) was heated and refluxed for 25 hours under a nitrogen flow. The solvent was concentrated under reduced pressure. After washing with isopropyl ether and ethanol, the residue was recrystallized from tetrahydrofuran-ethyl acetate to give the title compound (0.07 g, 2%) as crystals.

reactant | N-(3-cyanophenyl)acetamide | 13 mmol, 2.00 g | C(#N)C=1C=C(C=CC1)NC(C)=O | C9H8N2O
reactant | methyl thiosalicylate | 19 mmol, 3.20 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 23 mmol, 2.30 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-[3-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]acetamide | 0.07 g, 2% | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C=CC2)NC(C)=O | C16H12N2O2S
